US07776857B2
7-Chloro-2-(trimethylsilyl)furo[3,2-b]pyridine (0.250 g, 1.11 mmol) and NIS (2.49 g, 11.1 mmol) were dissolved in 3 mL of ACN and stirred for 5 minutes. Potassium fluoride (0.0708 g, 1.22 mmol) was added and the reaction was stirred at 50° C. for one hour. The reaction was concentrated, redissolved in ethyl acetate, and washed with saturated sodium thiosulfate, water and brine. The organic layer was dried with sodium sulfate, filtered, and concentrated. The crude material was purified via column chromatography (gradient elution 0-100% EtOAc:Hex) to afford 7-chloro-2-iodofuro[3,2-b]pyridine as a white solid. MS: M+H+=280.2.

reactant | 7-Chloro-2-(trimethylsilyl)furo[3,2-b]pyridine | 1.11 mmol, 0.250 g | ClC1=C2C(=NC=C1)C=C(O2)[Si](C)(C)C | C10H12ClNOSi
reactant | NIS | 11.1 mmol, 2.49 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | Potassium fluoride | 1.22 mmol, 0.0708 g | [F-].[K+]
solvent | ACN | 3 mL | C(C)#N | C2H3N
product | 7-chloro-2-iodofuro[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=C(O2)I | C7H3ClINO
